US06855710B2
(Z)-3-[1-(4-methylaminomethylcarbonylaminomethyl-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride
Prepared analogously to Example 29a from (Z)-3-{1-[4-(N-tert.butoxycarbonyl-N-methylamino)methylcarbonylaminomethyl-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone and ethyl acetate/hydrogen chloride.

reactant | (Z)-3-{1-[4-(N-tert.butoxycarbonyl-N-methylamino)methylcarbonylaminomethyl-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)N(C)CC(=O)NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C30H31N5O6
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
product | (Z)-3-[1-(4-methylaminomethylcarbonylaminomethyl-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride | Cl.CNCC(=O)NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C25H23N5O4.ClH/c1-26-15-22(31)27-14-16-7-9-18(10-8-16)28-24(17-5-3-2-4-6-17)23-20-13-19(30(33)34)11-12-21(20)29-25(23)32;/h2-13,26,28H,14-15H2,1H3,(H,27,31)(H,29,32);1H/b24-23-;
